US05534529
N-[2-t-Butyl-5-(3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide
2 ml of a methylene chloride solution containing 155 mg (1.98 mmol) of dimethyl sulfoxide were added dropwise over a period of 5 minutes to 2 ml of a methylene chloride solution containing 126 mg (0.99 mmol) of oxalyl chloride which had previously been cooled at -78° C. The mixture was then stirred for 5 minutes at this temperature, after which 15 ml of a methylene chloride solution containing 354 mg (0.825 mmol) of N-[2-t-butyl-5-(3-hydroxypropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide (prepared as described in Preparation 18) were added, and the mixture was stirred for a further 15 minutes at this temperature. 501 mg (4.95 mmol) of triethylamine were then added to the reaction mixture, which was then stirred for 5 minutes at the same temperature. The reaction mixture was then allowed to return to room temperature, after which it was diluted with diethyl ether, and washed with dilute aqueous hydrochloric acid and then with water. The solvent was then removed by distillation under reduced pressure. The resulting residue was subjected to column chromatography through 20 g of silica gel. Elution with a 100:5 by volume mixture of methylene chloride and ethyl acetate afforded 310 mg (yield 88%) of the title compound as crystals, melting at 176°-177° C. (after recrystallization from a mixture of methylene chloride and diethyl ether).

reactant | dimethyl sulfoxide | 1.98 mmol, 155 mg | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 0.99 mmol, 126 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | N-[2-t-butyl-5-(3-hydroxypropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 0.825 mmol, 354 mg | C(C)(C)(C)C1=C(C=C(C=C1)CCCO)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C28H31NO3
reactant | triethylamine | 4.95 mmol, 501 mg | C(C)N(CC)CC | C6H15N
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
product | N-[2-t-Butyl-5-(3-oxopropyl)phenyl]-2-(9H-xanthen-9-yl)acetamide | 310 mg, yield 88% | C(C)(C)(C)C1=C(C=C(C=C1)CCC=O)NC(CC1C2=CC=CC=C2OC=2C=CC=CC12)=O | C28H29NO3
